US05646173
2.4 g of N-[2-(7-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide were heated to 140° for 17 hours under argon in 48 ml of ethylene glycol/water 2:1 in the presence of 2.5 g of potassium hydroxide. The mixture was left to cool and treated with 250 ml of semi-saturated sodium chloride solution. The mixture was extracted three times with diethyl ether and the combined extracts were dried over sodium sulfate, filtered and evaporated. The brown oil was dissolved in 30 ml of methanol and treated with 1.0 g of fumaric acid, following which pale brown crystals separated. These were dissolved in 120 ml of warm methanol. After cooling to room temperature the product was crystallized out by the slow addition of 120 ml of diethyl ether. 2.0 g (66%) of 2-(7-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethylamine fumarate (1:1) with m.p. 177°-180° were obtained.

reactant | N-[2-(7-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide | 2.4 g | COC1=CC=C2CC3=C(N(C=C3)CCNC(C)=O)C2=C1 | C16H18N2O2
reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | sodium chloride | 250 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 48 ml | C(CO)O.O
product | 2-(7-methoxy-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethylamine fumarate | 2.0 g, 66% | C(\C=C\C(=O)O)(=O)O.COC1=CC=C2CC3=C(N(C=C3)CCN)C2=C1 | InChI=1S/C14H16N2O.C4H4O4/c1-17-12-3-2-10-8-11-4-6-16(7-5-15)14(11)13(10)9-12;5-3(6)1-2-4(7)8/h2-4,6,9H,5,7-8,15H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
